US06844345B2
b) (R)-8-fluoro-4,6-dimethyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
1.2 g (R)-6-bromo-8-fluoro-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one was dissolved in 12 ml N,N-dimethylformamide under argon. 0.45 gTetrakis-(triphenylphosphine)palladium, 1.56 g potassium carbonate and 0.55 ml trimethylboroxine were added. The mixture was heated overnight at 110° C., allowed to cool to room temperature, filtered over dicalite and washed through with tetrahydrofuran. The solvents were evaporated under reduced pressure and the residue purified by column chromatography on silica gel (1:1 to 1:3 toluene/ethyl acetate) to afford the title product as an off-white solid. Yield: 300 mg ISP-MS: m/e 233.1 ([M+H]+).

reactant | (R)-6-bromo-8-fluoro-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 1.2 g | BrC1=CC(=CC=2C=C3N(C12)[C@@H](CNC3=O)C)F | C12H10BrFN2O
reactant | potassium carbonate | 1.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylboroxine | 0.55 ml | CB1OB(OB(O1)C)C | C3H9B3O3
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | (R)-8-fluoro-4,6-dimethyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | FC1=CC=2C=C3N(C2C(=C1)C)[C@@H](CNC3=O)C | C13H13FN2O
